US07071216B2
The mixture containing methyl-5-(4-nitrophenoxy)pyridine-3-carboxylate in methanol with catalytic amount of 10% Pd/C was hydrogenated to yield methyl5-[4-aminophenoxy]pyridine-3-carboxylate. MS: MH+=244.

reactant | methyl-5-(4-nitrophenoxy)pyridine-3-carboxylate | COC(=O)C=1C=NC=C(C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C13H10N2O5
solvent | methanol | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | methyl5-[4-aminophenoxy]pyridine-3-carboxylate | COC(=O)C=1C=NC=C(C1)OC1=CC=C(C=C1)N | C13H12N2O3
